US07838543B2
Rac-N-{2-[Methyl-(1-methyl-pyrrolidin-3-ylmethyl)-amino]-benzooxazol-5-yl}-3-(4-trifluoromethyl-phenyl)-acrylamide
Combine rac-N2-methyl-N2-(1-methyl-pyrrolidin-3-ylmethyl)-benzooxazole-2,5-diamine (0.040 g, 0.154 mmol), 3-(4-trifluoromethyl-phenyl)-acrylic acid (0.050 g, 0.230 mmol), HATU (0.058 g, 0.154 mmol), polystyrene-bound diisopropylamine (0.385 g, loading: 2.0 to 3.5 mmol/g), and CH2Cl2 (20 mL). Shake the mixture overnight at room temperature. Filter the mixture and wash the polystyrene resin with 1:1 CH2Cl2/MeOH. Subject the mixture to flash column chromatography (12 g column, eluting with 10% 2M NH3 in MeOH/CH2Cl2) to yield the product as a yellow-white solid (0.040 g, 57%). mass spectrum (m/e): 459.0 (M+1), 457.0 (M−1). 1H NMR (400 MHz, CDCl3): δ 7.75 (d, J=15.2 Hz, 1H), 7.61 (m, 4H), 7.53 (d, J=12.4 Hz, 2H), 7.37 (d, J=8.0 Hz, 1H), 7.20 (d, J=8.0 Hz, 1H), 6.64 (d, J=15.6 Hz, 1H), 3.62-3.49 (m, 2H), 3.20 (s, 3H), 2.77-2.55 (m, 4H), 2.44-2.37 (m, 1H), 2.38 (s, 3H), 2.09-1.98 (m, 1H), 1.63-1.53 (m, 1H).

reactant | rac-N2-methyl-N2-(1-methyl-pyrrolidin-3-ylmethyl)-benzooxazole-2,5-diamine | 0.154 mmol, 0.040 g | CN(C=1OC2=C(N1)C=C(C=C2)N)CC2CN(CC2)C | C14H20N4O
reactant | 3-(4-trifluoromethyl-phenyl)-acrylic acid | 0.230 mmol, 0.050 g | FC(C1=CC=C(C=C1)C=CC(=O)O)(F)F | C10H7F3O2
reactant | HATU | 0.154 mmol, 0.058 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | Rac-N-{2-[Methyl-(1-methyl-pyrrolidin-3-ylmethyl)-amino]-benzooxazol-5-yl}-3-(4-trifluoromethyl-phenyl)-acrylamide | 0.040 g, 57% | CN(C=1OC2=C(N1)C=C(C=C2)NC(C=CC2=CC=C(C=C2)C(F)(F)F)=O)CC2CN(CC2)C | C24H25F3N4O2
